US06747023B1
1-[(5-Chloroindol-2-yl)carbonyl]-4-[4-(pyridin-4-yl)phenylsulfonyl]piperazine hydrochloride
A saturated solution of hydrochloride in methanol (10 ml) was added to 1-(tert-butoxycarbonyl)-4-[4-(pyridin-4-yl)phenylsulfonyl]piperazine (180 mg). After stirring for 30 minutes, the solvent was distilled off under reduced pressure. To a solution of the residue in N,N-dimethylformamide (10 ml) were added (5-chloroindol-2-yl)carboxylic acid (90.0 mg), 1-hydroxybenzotriazole (75.5 mg) and 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (107 mg) and diisopropylethylamine (233 μg) at room temperature. After stirring for 3 days, methylene chloride (100 ml) and water (500 ml) were added to the reaction mixture to separate it into layers. The water layer was extracted with methylene chloride (50 ml). The organic layers were combined, washed with water (500 ml) and a saturated aqueous solution (100 ml) of sodium bicarbonate, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 20 g, methylene chloride:acetone=3:1→1:1), whereby the title compound (97.5 mg) was obtained as a white solid. The resulting compound was dissolved in hydrochloric acid-methanol-methylene chloride-tetrahydrofuran, followed by concentration, whereby the title compound was obtained.

reactant | hydrochloride | Cl | ClH
reactant | 1-(tert-butoxycarbonyl)-4-[4-(pyridin-4-yl)phenylsulfonyl]piperazine | 180 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C1=CC=NC=C1 | C20H25N3O4S
reactant | hydrochloric acid methanol methylene chloride tetrahydrofuran | Cl.CO.C(Cl)Cl.O1CCCC1
solvent | methanol | 10 ml | CO | CH4O
product | 1-[(5-Chloroindol-2-yl)carbonyl]-4-[4-(pyridin-4-yl)phenylsulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C1=CC=NC=C1 | InChI=1S/C24H21ClN4O3S.ClH/c25-20-3-6-22-19(15-20)16-23(27-22)24(30)28-11-13-29(14-12-28)33(31,32)21-4-1-17(2-5-21)18-7-9-26-10-8-18;/h1-10,15-16,27H,11-14H2;1H
